US05756528
Step A: Preparation of 2(S)-Hydroxymethyl-N-trifluoroacetyl pyrrolidine
To a solution of L-prolinol (7.02 g, 69.4 mmol) and triethylamine (10.6 ml, 76.1 mmol) in CH2Cl2 (700 ml) at -5° C. was added trifluoroacetic anhydride (9.80 ml, 69.4 mmol) over a period of 4 hr. The solvent was evaporated in vacuo and the residue purified by chromatography (SiO2, 15-20% EtOAc in hexanes, gradient elution). The title compound was obtained as a pale yellow oil.

reactant | L-prolinol | 69.4 mmol, 7.02 g | N1[C@H](CO)CCC1 | C5H11NO
reactant | triethylamine | 76.1 mmol, 10.6 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 69.4 mmol, 9.80 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 700 ml | C(Cl)Cl | CH2Cl2
product | 2(S)-Hydroxymethyl-N-trifluoroacetyl pyrrolidine | OC[C@H]1N(CCC1)C(C(F)(F)F)=O | C7H10F3NO2
